US08106043B2
N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
A solution of N-(4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.44 g, 1.270 mmol) in dry ethanol (10 mL) was treated with hydrochloric acid (1M in ether; 6.35 mL, 6.35 mmol) and stirred at room temperature for 1 hour. The precipitate was isolated and washed with ether to give a yellow-green powder. The powder was dried under reduced pressure. (0.46 g, 86%). 1H-NMR (DMSO-d6) δ 11.25 (brs, 2H), 9.69 (brs, 1H), 8.69 (brs, 1H), 8.15-8.13 (m, 2H), 7.37-7.37 (m, 1H), 7.07-7.01 (m, 3H), 3.82-3.77 (m, 2H), 3.70-3.60 (m, 2H), 3.25-3.21 (m, 2H), 3.15-3.10 (m, 2H), 2.80 (d, J=3.6 Hz, 6H); ESI-MS (m/z, %): 347 (MH+, free base, 100); ESI-HRMS calculated for C17H23N4S2 (MH+, free base): 347.1358, observed: 347.1343; HPLC purity: 97% by area.

reactant | N-(4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 1.270 mmol, 0.44 g | CN(CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2)C | C17H22N4S2
reactant | hydrochloric acid | 6.35 mmol, 1M, 6.35 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | Cl.Cl.CN(CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2)C | InChI=1S/C17H22N4S2.2ClH/c1-20(2)7-8-21-9-11-23-16-12-13(5-6-14(16)21)19-17(18)15-4-3-10-22-15;;/h3-6,10,12H,7-9,11H2,1-2H3,(H2,18,19);2*1H
